US05175320
e) Methyl 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoate.
A solution of methyl 3α-tert-butyldimethylsilyloxy-6α-hydroxy-7-keto-5β-cholanoate (2.4 g, 4.49 mmoles) in methylene chloride (50 ml) was added dropwise in one hour to a solution of diethylamino-sulfur-trifluoride (2.72 ml, 20.0 mmoles) in methylene chloride (50 ml) and the mixture was left to react overnight under argon atmosphere, with magnetic stirring. The reaction mixture was washed with water (1×30 ml), subsequently with a sodium bicarbonate saturated solution (2×20 ml), finally with brine (1×30 ml). The organic phase was dried over sodium sulfate and concentrated under vacuum. The residue (2.0 g) was subjected to flash chromatography on silica, eluting with methylene chloride, to obtain 0.6 g of a pure product (32%).

reactant | methyl 3α-tert-butyldimethylsilyloxy-6α-hydroxy-7-keto-5β-cholanoate | 4.49 mmoles, 2.4 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]2[C@H](C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)O | C31H54O5Si
reactant | diethylamino-sulfur-trifluoride | 20.0 mmoles, 2.72 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoate | 0.6 g, 32% | O[C@H]1C[C@H]2[C@H](C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)F | C25H39FO4
